US04529724
11,12-Dihydro-6H-indolo[2,1-c][1,4]benzodiazepine
A mixture of 7.1 g (0.0286 mole) of 6H-indolo[2,1-c][1,4]benzodiazepin-12(11H)-one, the product of Example 1, 2.17 g (0.057 mole) of LAH and 100 ml of THF was refluxed for 5 hours under a nitrogen atmosphere. The reaction mixture was cooled to room temperature followed by the addition of 2.1 ml of water, 2.1 ml of 15% NaOH solution and 6.3 ml of water. The white solid obtained after 0.5 hour was filtered to give a light yellow filtrate which was concentrated in vacuo to give 6.54 g of off-white solid. Recrystallization from i-PrOH/EtOAc gave the title compound as a white solid, mp 176°-177° C.

reactant | 6H-indolo[2,1-c][1,4]benzodiazepin-12(11H)-one | 0.0286 mole, 7.1 g | C1=C2C=C3C(NC4=C(CN3C2=CC=C1)C=CC=C4)=O | C16H12N2O
reactant | LAH | 0.057 mole, 2.17 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | NaOH | 2.1 ml | [OH-].[Na+]
solvent | water | 6.3 ml | O | H2O
solvent | water | 2.1 ml | O | H2O
product | 11,12-Dihydro-6H-indolo[2,1-c][1,4]benzodiazepine | 6.54 g | C1=C2C=C3CNC4=C(CN3C2=CC=C1)C=CC=C4 | C16H14N2
